### PR TITLE
[Merged by Bors] - feat(NumberTheory/ModularForms): define boundedness / vanishing at a cusp

### PR DESCRIPTION
**Pull request by loefflerd**
---

- [x] depends on: #29327

Carved off from the larger WIP PR #26651.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean [hunk 1]
```diff
@@ -101,7 +101,8 @@ lemma moebius_im (g : GL (Fin 2) ℝ) (z : ℂ) :
   ring
 
 /-- Automorphism of `ℂ`: the identity if `0 < det g` and conjugation otherwise. -/
-def σ (g : GL (Fin 2) ℝ) : ℂ →+* ℂ := if 0 < g.det.val then RingHom.id ℂ else starRingEnd ℂ
+noncomputable def σ (g : GL (Fin 2) ℝ) : ℂ →+* ℂ :=
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean:104]: Not a big deal, but what happened here?

File: Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean [hunk 2]
```diff
@@ -0,0 +1,120 @@
...
+bounded at `∞`. -/
+def IsBoundedAt : Prop := ∀ g : GL (Fin 2) ℝ, g • ∞ = c → IsBoundedAtImInfty (f ∣[k] g)
+
+/-- We say `f` is zero at `c` if, for all `g` with `g • ∞ = c`, the function `f ∣[k] g` is
+zero at `∞`. -/
+def IsZeroAt : Prop := ∀ g : GL (Fin 2) ℝ, g • ∞ = c → IsZeroAtImInfty (f ∣[k] g)
+
+variable {c f k} {g : GL (Fin 2) ℝ}
+
+lemma IsBoundedAt.slash : IsBoundedAt c (f ∣[k] g) k ↔ IsBoundedAt (g • c) f k := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]: I am not sure about the name, maybe it should contain `iff`. You can add an alias for one direction to allow not notation if you want.

File: Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean [hunk 3]
```diff
@@ -0,0 +1,120 @@
...
+  rw [IsBoundedAt, IsBoundedAt, (Equiv.mulLeft g).forall_congr_left]
+  simp [MulAction.mul_smul, inv_smul_eq_iff, ← SlashAction.slash_mul]
+
+lemma IsZeroAt.slash : IsZeroAt c (f ∣[k] g) k ↔ IsZeroAt (g • c) f k := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]: Same.

File: Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean [hunk 4]
```diff
@@ -0,0 +1,120 @@
...
+
+lemma IsBoundedAt.add {f' : ℍ → ℂ} (hf : IsBoundedAt c f k) (hf' : IsBoundedAt c f' k) :
+    IsBoundedAt c (f + f') k :=
+  fun g hg ↦ by simpa using (hf g hg).add (hf' g hg)
+
+lemma IsZeroAt.add {f' : ℍ → ℂ} (hf : IsZeroAt c f k) (hf' : IsZeroAt c f' k) :
+    IsZeroAt c (f + f') k :=
+  fun g hg ↦ by simpa using (hf g hg).add (hf' g hg)
+
+lemma isBoundedAt_infty : IsBoundedAt ∞ f k ↔ IsBoundedAtImInfty f :=
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]:
```suggestion
lemma isBoundedAt_infty_iff : IsBoundedAt ∞ f k ↔ IsBoundedAtImInfty f :=
```

File: Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean [hunk 5]
```diff
@@ -0,0 +1,120 @@
...
+  ⟨fun h ↦ by simpa using h 1 (by simp), fun h _ hg ↦ h.slash _ (smul_infty_eq_self_iff.mp hg)⟩
+
+lemma isZeroAt_infty : IsZeroAt ∞ f k ↔ IsZeroAtImInfty f :=
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]:
```suggestion
lemma isZeroAt_infty_iff : IsZeroAt ∞ f k ↔ IsZeroAtImInfty f :=
```

File: Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean [hunk 6]
```diff
@@ -0,0 +1,120 @@
...
+
+variable {c : OnePoint ℝ} {f : ℍ → ℂ} {k : ℤ}
+
+lemma isBoundedAt_iff_exists_SL2Z (hc : IsCusp c 𝒮ℒ) :
+    IsBoundedAt c f k ↔ ∃ γ : SL(2, ℤ), mapGL ℝ γ • ∞ = c ∧ IsBoundedAtImInfty (f ∣[k] γ) := by
+  constructor
+  · obtain ⟨γ, rfl⟩ := isCusp_SL2Z_iff'.mp hc
+    simpa only [← IsBoundedAt.slash, isBoundedAt_infty] using fun hfc ↦ ⟨γ, rfl, hfc⟩
+  · rintro ⟨γ, rfl, b⟩
+    simpa only [← IsBoundedAt.slash, isBoundedAt_infty] using b
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]:
```suggestion
    simpa [← IsBoundedAt.slash, isBoundedAt_infty] using b
```

File: Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean [hunk 7]
```diff
@@ -0,0 +1,120 @@
...
+
+lemma isZeroAt_iff_exists_SL2Z (hc : IsCusp c 𝒮ℒ) :
+    IsZeroAt c f k ↔ ∃ γ : SL(2, ℤ), mapGL ℝ γ • ∞ = c ∧ IsZeroAtImInfty (f ∣[k] γ) := by
+  constructor
+  · obtain ⟨γ, rfl⟩ := isCusp_SL2Z_iff'.mp hc
+    simpa only [← IsZeroAt.slash, isZeroAt_infty] using fun hfc ↦ ⟨γ, rfl, hfc⟩
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]:
```suggestion
    simpa [← IsZeroAt.slash, isZeroAt_infty] using fun hfc ↦ ⟨γ, rfl, hfc⟩
```

File: Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean [hunk 8]
```diff
@@ -0,0 +1,120 @@
...
+  · rintro ⟨γ, rfl, b⟩
+    simpa only [← IsZeroAt.slash, isZeroAt_infty] using b
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]:
```suggestion
    simpa [← IsZeroAt.slash, isZeroAt_infty] using b
```

File: Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean [hunk 9]
```diff
@@ -0,0 +1,120 @@
...
+
+lemma isBoundedAt_iff_forall_SL2Z (hc : IsCusp c 𝒮ℒ) :
+    IsBoundedAt c f k ↔ ∀ γ : SL(2, ℤ), mapGL ℝ γ • ∞ = c → IsBoundedAtImInfty (f ∣[k] γ) := by
+  refine ⟨fun hc _ hγ ↦ by simpa using hc _ hγ, fun h ↦ ?_⟩
+  obtain ⟨γ, rfl⟩ := isCusp_SL2Z_iff'.mp hc
+  simpa only [← IsBoundedAt.slash, isBoundedAt_infty] using h γ rfl
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]:
```suggestion
  simpa [← IsBoundedAt.slash, isBoundedAt_infty] using h γ rfl
```
You add several times the same lemmas to `simpa`. Maybe it's worth to add them to the `simp` set?

File: Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean [hunk 10]
```diff
@@ -0,0 +1,120 @@
...
+
+lemma isZeroAt_iff_forall_SL2Z (hc : IsCusp c 𝒮ℒ) :
+    IsZeroAt c f k ↔ ∀ γ : SL(2, ℤ), mapGL ℝ γ • ∞ = c → IsZeroAtImInfty (f ∣[k] γ) := by
+  refine ⟨fun hc _ hγ ↦ by simpa using hc _ hγ, fun h ↦ ?_⟩
+  obtain ⟨γ, rfl⟩ := isCusp_SL2Z_iff'.mp hc
+  simpa only [← IsZeroAt.slash, isZeroAt_infty] using h γ rfl
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]:
```suggestion
  simpa [← IsZeroAt.slash, isZeroAt_infty] using h γ rfl
```

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean:104]: This is a `def` which includes a real-number comparison, which is the canonical example of a  noncomputable operation. So it should have been flagged as `noncomputable` from the start. For some reason I don't understand, it doesn't cause the usual "compiler IR check failed" error (although my understanding is that it should); but I was getting some strange errors in a related down-stream declaration, which went away when I gave this the `noncomputable` flag.

File: Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]: In this lemma, there isn't an obviously "simpler" side, so I wasn't sure which direction would get the dot-notation alias :-)

Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]: I have renamed this lemma to `smul_iff`, and reversed the direction, since that is the direction which is actually used elsewhere in the file.

File: Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean (hunk 9 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/BoundedAtCusp.lean]: > You add several times the same lemmas to simpa. Maybe it's worth to add them to the simp set?

I don't think so. This is just a "transitional" thing, that I need to use these lemmas several times to build up the next layer of the API. Once that is done these lemmas should be needed so much again – I don't want `simp` to instantly unfold the definition of `IsBoundedAt` whenever it arises.
